US06174901B1
Step C: 6-(4-Fluorophenyl)-5-(4-pyridyl)-2H-pyridazin-3-one:
A solution of bromine (78.3 μl, 1.48 mmol) in acetic acid (6 ml) was added dropwise to a stirred solution of 6-(4-fluorophenyl)-4,5-dihydro-5-(4-pyridyl)-2H-pyridazin-3-one (314 mg, 1.17 mmol) in acetic acid (4.6 ml) at room temperature. After 2 h at room temperature, more bromine (41.7 μl, 0.78 mmol) in acetic acid (3.2 ml) was added to the turbid mixture. A gum precipitated. After 30 minutes, it was evaporated and co-evaporated with toluene. Residual acid was neutralized with methanolic 2N ammonia followed by evaporation. The resulting product was purified on a column of silica gel (3-5% methanol/dichloromethane) to provide the title compound as a solid. MS (m/z): 268.1 (M+H)+; C15H16FN3O requir. 267.3.

reactant | bromine | 1.48 mmol, 78.3 μl | BrBr | Br2
reactant | 6-(4-fluorophenyl)-4,5-dihydro-5-(4-pyridyl)-2H-pyridazin-3-one | 1.17 mmol, 314 mg | FC1=CC=C(C=C1)C=1C(CC(NN1)=O)C1=CC=NC=C1 | C15H12FN3O
reactant | bromine | 0.78 mmol, 41.7 μl | BrBr | Br2
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 4.6 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 3.2 ml | C(C)(=O)O | C2H4O2
product | 6-(4-Fluorophenyl)-5-(4-pyridyl)-2H-pyridazin-3-one | FC1=CC=C(C=C1)C=1C(=CC(NN1)=O)C1=CC=NC=C1 | C15H10FN3O
